US08877751B2
Preparation of 3-{3-[5-(4-methylpiperazin-1-yl)pyrimidin-2-yl]benzyl}-5-trifluoromethyl-3H-benzothiazol-2-one (“A11”)
513 mg (1 mmol) of 3-[3-(5-iodopyrimidin-2-yl)benzyl]-5-trifluoromethyl-3H-benzothiazol-2-one is suspended in toluene, briefly heated to 100° C. and cooled to room temperature. 134 μl (1.2 mmol) of methylpiperazine, 297 mg (1.4 mmol) of potassium phosphate trihydrate, and 33 mg (0.08 mmol) of 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl and 18 mg (0.02 mmol) of tris(benzylideneacetone)dipalladium are subsequently added and stirred at 100° C. under an argon atmosphere. 33 mg (0.08 mmol) of 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl and 18 mg (0.02 mmol) of tris(benzylideneacetone)dipalladium are subsequently again added and stirred at 100° C. for a further 24 h under an argon atmosphere. Water is added to the reaction mixture, which is then extracted with ethyl acetate and dried. The crude product is purified by means of preparative HPLC. The product is in the form of the trifluoroacetate.

reactant | 3-[3-(5-iodopyrimidin-2-yl)benzyl]-5-trifluoromethyl-3H-benzothiazol-2-one | 1 mmol, 513 mg | IC=1C=NC(=NC1)C=1C=C(CN2C(SC3=C2C=C(C=C3)C(F)(F)F)=O)C=CC1 | C19H11F3IN3OS
reactant | methylpiperazine | 1.2 mmol, 134 μl | CN1CCNCC1 | C5H12N2
reactant | potassium phosphate trihydrate | 1.4 mmol, 297 mg | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.08 mmol, 33 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.08 mmol, 33 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 3-{3-[5-(4-methylpiperazin-1-yl)pyrimidin-2-yl]benzyl}-5-trifluoromethyl-3H-benzothiazol-2-one | CN1CCN(CC1)C=1C=NC(=NC1)C=1C=C(CN2C(SC3=C2C=C(C=C3)C(F)(F)F)=O)C=CC1 | C24H22F3N5OS
